US07141671B2
4-(tert-Butoxycarbonylaminomethyl)-2-chlorophenylamine
A stirred solution of 4-aminomethyl-2-chlorophenylamine (940 mg, 6 mmol) and di-tert-butyl dicarbonate (1.44 g, 6.6 mmol) in dichloromethane (30 mL) was stirred at room temperature for 4 h, at which time the reaction was determined to be complete by LCMS. The reaction mixture was then washed with saturated aqueous sodium bicarbonate (15 mL) and the organic layer was dried over sodium sulfate and the solvent was removed under reduced pressure. The resulting orange solid was recrystallized from ethyl acetate to give the title intermediate as a white solid (˜100% yield).

reactant | 4-aminomethyl-2-chlorophenylamine | 6 mmol, 940 mg | NCC1=CC(=C(C=C1)N)Cl | C7H9ClN2
reactant | di-tert-butyl dicarbonate | 6.6 mmol, 1.44 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-(tert-Butoxycarbonylaminomethyl)-2-chlorophenylamine | ˜100% yield | C(C)(C)(C)OC(=O)NCC1=CC(=C(C=C1)N)Cl | C12H17ClN2O2
